US04826854
A solution of 46.0 g of diethyl N-(1-cyclododecenyl)aminomethylenemalonate in 40 ml of Dowtherm® is added to one liter of Dowtherm® at 250° under argon, and the distillate is collected in a Dean-Stark trap. After 0.5 hour the mixture is allowed to cool to room temperature and the solvent is distilled off. The residual solid is triturated with ether to give ethyl 4-hydroxy-5,6,7,8,9,10,11,12-octahydrocyclodeca[b]pyridine-3-carboxylate, m.p. 212°-30°.

reactant | diethyl N-(1-cyclododecenyl)aminomethylenemalonate | 46.0 g | C1(=CCCCCCCCCCC1)NC=C(C(=O)OCC)C(=O)OCC | C20H33NO4
solvent | Dowtherm | 40 ml | C1=CC=C(C=C1)C2=CC=CC=C2.C1=CC=C(C=C1)OC2=CC=CC=C2
solvent | Dowtherm | one liter | C1=CC=C(C=C1)C2=CC=CC=C2.C1=CC=C(C=C1)OC2=CC=CC=C2
product | ethyl 4-hydroxy-5,6,7,8,9,10,11,12-octahydrocyclodeca[b]pyridine-3-carboxylate | OC1=C2C(=NC=C1C(=O)OCC)CCCCCCCC2 | C16H23NO3
